US08383644B2
(S)-2-({(3S,8S)-7-(2,5-Dimethyl-oxazole-4-carbonyl)-3-[4-(4-trifluoromethyl-cyclohexylmethoxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(3S,8S)-8-{(S)-1-Carboxy-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-ethyl-carbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester was coupled with (4-trifluoromethyl-cyclohexyl)-methanol according to the General Procedure K. The resulting product was converted to (S)-2-({(3S,8S)-7-(2,5-dimethyl-oxazole-4-carbonyl)-3-[4-(4-trifluoromethyl-cyclohexyl-methoxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester according to General Procedure C, then the residue was suspended in DCM. TEA (3 eq.) added and the mixture was concentrated. In a separate vial, EDC (3 eq.) and 2,5-dimethyl-oxazole-4-carboxylic acid (6 eq.) were dissolved in DCM and stirred for 40 minutes. This solution was added to the above mixture and stirred for 16 hours. The reaction mixture was directly purified over silica (hexanes; 1:1 hexanes/EtOAc; 1:1 hexanes EtOAc+1% MeOH). This ester was hydrolyzed according to General Procedure B to give the title compound. LCMS (m/z): 868.

reactant | (3S,8S)-8-{(S)-1-Carboxy-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-ethyl-carbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)O)=O)OC[C@@H](O3)C3=CC=C(C=C3)O | C39H41N3O8
reactant | (4-trifluoromethyl-cyclohexyl)-methanol | FC(C1CCC(CC1)CO)(F)F | C8H13F3O
reactant | (S)-2-({(3S,8S)-7-(2,5-dimethyl-oxazole-4-carbonyl)-3-[4-(4-trifluoromethyl-cyclohexyl-methoxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCC(CC3)C(F)(F)F)C(=O)C=3N=C(OC3C)C)=O | C49H51F3N4O8
reactant | EDC | 3 eq.
reactant | 2,5-dimethyl-oxazole-4-carboxylic acid | 6 eq. | CC=1OC(=C(N1)C(=O)O)C | C6H7NO3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-({(3S,8S)-7-(2,5-Dimethyl-oxazole-4-carbonyl)-3-[4-(4-trifluoromethyl-cyclohexylmethoxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | CC=1OC(=C(N1)C(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCC(CC3)C(F)(F)F)C | C48H49F3N4O8
